US04681879
6-Chloro-11-[(1-methyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
To a solution of [1-(6-chloro-2-fluorobenzyl)-2-pyrryl](1-methylpiperidin-4-yl)methanol (25.1 g; 0.075 mole) in 230 ml of tetrahydrofuran was added potassium tert-butoxide (9.2 g; 0.082 mole). This was stirred for 0.5 hour at 50° C.

reactant | [1-(6-chloro-2-fluorobenzyl)-2-pyrryl](1-methylpiperidin-4-yl)methanol | 0.075 mole, 25.1 g | ClC1=CC=CC(=C1CN1C(=CC=C1)C(O)C1CCN(CC1)C)F | C18H22ClFN2O
reactant | potassium tert-butoxide | 0.082 mole, 9.2 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 230 ml | O1CCCC1 | C4H8O
product | 6-Chloro-11-[(1-methyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | ClC1=CC=CC2=C1CN1C(C(O2)C2CCN(CC2)C)=CC=C1 | C18H21ClN2O
